US07985876B2
Dimethyl 4,4′-(3-formylpentane-1,5-diyl)dibenzoate
6.1 g (28.3 mmol) of pyridinium chlorochromate (PCC) are added to a solution of 8.73 g (23.6 mmol) of dimethyl 4,4′-[3-(hydroxymethyl)pentane-1,5-diyl]dibenzoate in 280 ml of dichloromethane, and the mixture is stirred at room temperature for 12 h. After the reaction has gone to completion, about 10 g of silica gel are added, and the solvent is removed to dryness under reduced pressure. The residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1). This gives 7.08 g (19.22 mmol, 81.5% of theory) of a colorless oil.

reactant | pyridinium chlorochromate | 28.3 mmol, 6.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | dimethyl 4,4′-[3-(hydroxymethyl)pentane-1,5-diyl]dibenzoate | 23.6 mmol, 8.73 g | OCC(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C22H26O5
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
product | Dimethyl 4,4′-(3-formylpentane-1,5-diyl)dibenzoate | C(=O)C(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C22H24O5
